US06040303
0.8 g sodium hydroxide, 10 ml water and 4.36 g di-tert.butyl dicarbonate were added to 1.78 g β-alanine in 30 ml THF, and the mixture was stirred for 60 hours at room temperature. Then the mixture was reduced in volume under a vacuum, and the residue was taken up in dichloromethane and shaken with 10% aqueous tartaric acid solution. The organic phase was separated, dried over sodium sulfate, filtered and concentrated in a vacuum. 3.35 g crude N-tert.butoxycarbonyl-β-alanine were obtained, which was reacted further without purification.

reactant | sodium hydroxide | 0.8 g | [OH-].[Na+]
reactant | di-tert.butyl dicarbonate | 4.36 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | β-alanine | 1.78 g | NCCC(=O)O | C3H7NO2
reactant | tartaric acid | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | N-tert.butoxycarbonyl-β-alanine | 3.35 g | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
